US04013661
Following the procedure of Example 1, 8.6 g (0.1 mol) of acrylic acid methyl ester are brought to reaction with 22.6 g (0.1 mol) of 1,4-bis-(trimethylsilyl)-1,4-dihydropyridine. Upon addition of 20 ml of tetrahydrofuran the mixture is stirred at 50°C for 70 hours. The distillation in high vacuum yields 21.1 g (68%) of 1,4-bis-(trimethylsilyl-2-(1-carbomethoxyethyl)-1,2-dihydropyridine.

reactant | acrylic acid methyl ester | 0.1 mol, 8.6 g | COC(C=C)=O | C4H6O2
reactant | 1,4-bis-(trimethylsilyl)-1,4-dihydropyridine | 0.1 mol, 22.6 g | C[Si](N1C=CC(C=C1)[Si](C)(C)C)(C)C | C11H23NSi2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | trimethylsilyl-2-(1-carbomethoxyethyl)-1,2-dihydropyridine | C[Si](C)(C)N1C(C=CC=C1)C(C)C(=O)OC | C12H21NO2Si
